US05981572
N-[3-(5-Chloro-7-fluoro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide
N-Chlorosuccinimide (47.7 mg) was added to a solution of N-[3-(7-fluoro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide (77 mg) in glacial acetic acid (5 ml) at room temperature under nitrogen and the mixture stirred for 72 h. The solution was evaporated and the residue partitioned between sodium carbonate (2N; 10 ml) and ethyl acetate (10 ml). The combined organic extracts were washed with brine (10 ml) and dried (MgSO4). The solvent was evaporated and the residue purified by column chromatography. Eluting with dichloromethane/methanol 50:1 gave the title compound as a colourless gum which crystallised on standing (67 mg).

reactant | N-Chlorosuccinimide | 47.7 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-[3-(7-fluoro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide | 77 mg | FC1=CC=C(C=2CCOC21)CCCNC(C)=O | C13H16FNO2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-[3-(5-Chloro-7-fluoro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide | ClC=1C=C(C2=C(CCO2)C1CCCNC(C)=O)F | C13H15ClFNO2
